US07429609B2
5-Chloro-1H-pyrazolo[4,3-d]pyrimidine
27 mg of 1-(5-chloro-pyrazolo[4,3-d]pyrimidin-1-yl)-ethanone was dissolved in 1.5 mL of acetonitrile, added with 1.5 mL of 5N sodium hydroxide aqueous solution, and stirred for 2 hours. After adding 2N hydrochloric acid to the reaction solution to render it acidic, the solution was extracted with ethyl acetate, and the resultant organic layer was washed with saturated brine, then dried over magnesium sulfate, and the solvent was evaporated, to afford 16 mg of the title compound.

reactant | 1-(5-chloro-pyrazolo[4,3-d]pyrimidin-1-yl)-ethanone | 27 mg | ClC=1N=CC2=C(N1)C=NN2C(C)=O | C7H5ClN4O
reactant | sodium hydroxide | 5N, 1.5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
product | 5-Chloro-1H-pyrazolo[4,3-d]pyrimidine | 16 mg | ClC=1N=CC2=C(N1)C=NN2 | C5H3ClN4
